US06051712
A solution of 150 mg (0.32 mmol) of (3RS,4RS)-[4-(1-tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-phenyl]-acetic acid and 55 mg (0.32 mmol) of 2-amino-1-phenyl-ethanone in 5 ml of dimethylformamide was treated in sequence with 44.6 gl (0.32 mmol) of triethylamine and 96 mg (0.32 mmol) of O-(1,2-dihydro-2-oxo-1-pyridyl)-N,N,N',N'-tetramethyluronium tetrafluoroborate (TPTU) and the mixture was stirred at room temperature for 18 hours. For the working-up, the reaction was evaporated in an oil pump vacuum, the residue was taken up in 20 ml of methylene chloride and washed with 5 ml of water. The organic phase was dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude material was chromatographed on silica gel using a 95:5 mixture of methylene chloride and methanol as the eluent. There were obtained 120 mg (64% of theory) of tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-{4-[(2-oxo-2-phenyl-ethylcarbamoyl)-methyl]-phenyl}-piperidine-1-carboxylate as a colourless oil; MS: 615 (M+Na)+.

reactant | (3RS,4RS)-[4-(1-tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-phenyl]-acetic acid | 0.32 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)C1=CC=C(C=C1)CC(=O)O)OCC1=CC2=CC=CC=C2C=C1 | C29H33NO5
reactant | 2-amino-1-phenyl-ethanone | 0.32 mmol, 55 mg | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | triethylamine | 0.32 mmol | C(C)N(CC)CC | C6H15N
reactant | O-(1,2-dihydro-2-oxo-1-pyridyl)-N,N,N',N'-tetramethyluronium tetrafluoroborate | 0.32 mmol, 96 mg | F[B-](F)(F)F.O=C1N(C=CC=C1)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-{4-[(2-oxo-2-phenyl-ethylcarbamoyl)-methyl]-phenyl}-piperidine-1-carboxylate | 120 mg, 64% | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CC(NCC(C1=CC=CC=C1)=O)=O)C(=O)OC(C)(C)C | C37H40N2O5
